US04616015
A mixture of 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (2.04 g) and 2,5-dimethoxytetrahydrofuran (1.32 g) in acetic acid (6 ml) was refluxed for 45 minutes and the allowed to stand at room temperature. The resultant precipitates were washed with diisopropyl ether and dissolved in a mixture of acetic acid, methanol and chloroform (1:2:50). The solution was chromatographed on silica gel (300 g) with a mixture of chloroform and methanol (10:1) as an eluent. The eluates were evaporated and the residue was crystallized from aqueous DMF to give 6-[4-(1-pyrrolyl)phenyl]-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (0.97 g).

reactant | 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 2.04 g | NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C10H12N4O
reactant | 2,5-dimethoxytetrahydrofuran | 1.32 g | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 6-[4-(1-pyrrolyl)phenyl]-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 0.97 g | N1(C=CC=C1)C1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C14H14N4O
